US07977331B1
To a suspension of ethyl 2-bromo-3-cyclohexyl-1-ethoxycarbonylmethyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate (457 mg, 1.05 mmol) and 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine (275 mg, 1.25 mmol) obtained in the same manner as in the method described in Example 1-1, Step 1 in 1,2-dimethoxyethane (7.5 ml) and water (3.5 ml) were added sodium hydrogen carbonate (260 mg, 3.14 mmol) and tetrakis(triphenylphosphine)palladium (60 mg, 0.05 mmol) and the mixture was stirred with heating at 110° C. for 3.5 hr. The mixture was allowed to cool to room temperature and the reaction mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated under reduced pressure and the obtained residue was purified by silica gel chromatography (hexane:ethyl acetate=1:1) to give ethyl 12-cyclohexyl-6-oxo-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate (111 mg, yield 26%).

reactant | ethyl 2-bromo-3-cyclohexyl-1-ethoxycarbonylmethyl-1H-pyrrolo[2,3-b]pyridine-6-carboxylate | 1.05 mmol, 457 mg | BrC1=C(C=2C(=NC(=CC2)C(=O)OCC)N1CC(=O)OCC)C1CCCCC1 | C20H25BrN2O4
reactant | 2-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenylamine | 1.25 mmol, 275 mg | CC1(OB(OC1(C)C)C1=C(C=CC=C1)N)C | C12H18BNO2
reactant | water | 3.5 ml | O | H2O
reactant | sodium hydrogen carbonate | 3.14 mmol, 260 mg | C(O)([O-])=O.[Na+]
solvent | 1,2-dimethoxyethane | 7.5 ml | COCCOC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium | 0.05 mmol, 60 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | ethyl 12-cyclohexyl-6-oxo-6,7-dihydro-5H-5,7a,8-triazadibenzo[a,e]azulene-9-carboxylate | 111 mg, yield 26% | C1(CCCCC1)C=1C2=C(N3CC(NC4=C(C13)C=CC=C4)=O)N=C(C=C2)C(=O)OCC | C24H25N3O3
